* Passivizer Netlist 12: Upright Acoustic Bridge Transducer
* Target: Direct bridge force sensor (Underwood / David Gage Realist style)
* Captures dynamic bridge rocking compliance, piezo source capacitance, and subsonic decoupling
.options plotwinsize=0 numdgt=7

* 1. Audio Source (Pre-filtered NAM Training Track)
V_in in 0 wavefile="v1_1_1_aperture.wav"

* 2. Dynamic Bridge Rocking Compliance & Wood Compression (Soft-Knee Saturation)
* Models bridge flex over bass bar and soundpost under firm pizzicato attack
B_comp in_dyn 0 V=0.42 * tanh(V(in) / 0.42)

* 3. Bridge Transducer Impedance & Piezo Crystal Load
* Pure capacitive piezo sensor (1.2nF) with zero inductive resonance
L_coil in_dyn node1 1u
R_dc node1 node2 50
R_eddy in_dyn node2 1Meg
C_coil node2 0 1.2n

* 4. Subsonic Decoupling High-Pass Capacitor (32 Hz Cutoff)
* Prevents physical handling thump and low-frequency stage rumble
C_rick node2 node_hpf 15n

* 5. Direct Tailpiece Wiring (Bypasses Electric Volume Pot & Treble Bleed)
* Acoustic upright bridge transducers connect directly to high-impedance buffers
R_pot_top node_hpf node3 10
R_pot_bot node3 0 100Meg
C_tb node_hpf tb_mid 0p
R_tb_par node_hpf tb_mid 100Meg
R_tb_ser tb_mid node3 100Meg

* 7. Instrument Cable Load (15-ft cable ~750pF)
C_cable node3 0 750p

* 8. Darkglass Anagram Input Stage (1 M-Ohm || 30pF)
R_anagram node3 0 1Meg
C_anagram node3 0 30p

* 9. Transient Execution (48 kHz sample interval)
.tran 0 190 0 20.833333333333333u

* 10. Output Audio Export for NAM Training
.wave "out_12_upright_bridge_transducer.wav" 24 48000 V(node3)
.end
